US08048887B2
To a large screw top vial was added 3-bromo-5-hydroxybenzoic acid (1 g, 4.61 mmol), pyridine (10 mL), N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine, HCl (0.972 g, 5.07 mmol) (EDAC) along with 2-methylpropan-1-amine (0.504 mL, 5.07 mmol). The vial was capped and the mixture shaken over night. The reaction mixture was acidified with 10 mL of an ice cold 1 M HCl solution. The mixture was diluted with dichloromethane, extracted, washed with brine and dried over magnesium sulfate. The reaction mixture was filtered then added to the top of a 240 g Thomson silica gel cartridge. The product was eluted with 0-12% (3000 mL) methanol in dichloromethane to give 3-bromo-5-hydroxy-N-isobutylbenzamide (95%) as a yellow solid. LCMS Rt 1.632 min., m/z 273.99 (M+H), 93% purity. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 254 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 30-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. To a sealed tube was added 3-bromo-5-hydroxy-N-isobutylbenzamide (380.4 mg, 1.398 mmol), DMF (15 mL), 2-iodopropane (0.210 mL, 2.097 mmol), and potassium carbonate (290 mg, 2.097 mmol). The tube was sealed and heated to 90° C. overnight. The reaction mixture was cooled, transferred to a separatory funnel, diluted with ethyl acetate and extracted. The organic solution was washed with 1M HCl, brine, dried over magnesium sulfate, filtered and evaporated to dryness. The resulting orange oil was taken up in dichloromethane and purified using the BIOTAGE® Horizon with a 110 g Thomson silica gel column employing 0-5% methanol and 2000 mL of solvent to give a near quantitative yield of 3-bromo-N-isobutyl-5-isopropoxybenzamide as a light yellow solid. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 254 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 30-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (400 MHz, CDCl3) δ ppm 0.87-1.04 (m, 6H), 1.23-1.37 (m, 6H), 1.79-2.00 (m, 1H), 3.25 (t, J=6.40 Hz, 2H), 4.57 (dt, J=12.05, 6.02 Hz, 1H), 6.29 (br. s., 1H), 7.08-7.19 (m, 1H), 7.21-7.26 (m, 1H), 7.38 (s, 1H). LCMS Rt 2.413 min., m/z 315.01 (M+H), 95% purity.

reactant | 3-bromo-5-hydroxy-N-isobutylbenzamide | 1.398 mmol, 380.4 mg | BrC=1C=C(C(=O)NCC(C)C)C=C(C1)O | C11H14BrNO2
reactant | 2-iodopropane | 2.097 mmol, 0.210 mL | IC(C)C | C3H7I
reactant | potassium carbonate | 2.097 mmol, 290 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | water acetonitrile | O.C(C)#N
product | 3-bromo-N-isobutyl-5-isopropoxybenzamide | quantitative yield | BrC=1C=C(C(=O)NCC(C)C)C=C(C1)OC(C)C | C14H20BrNO2
